US06288120B1
4-Butylbenzylamine.
A solution of 4-butylbenzonitrile (3.63 g, 22.8 mmol) in THF (10 mL) was placed in a three-neck round bottom flask equipped with a vigreux column and short-path distillation head. The solution was heated to reflux and BH3-methyl sulfide complex (2.0 M in THF, 15 mL, 30 mmol) was added dropwise over 15 minutes. Methyl sulfide was distilled off from the reaction mixture over 1 h and the solution was cooled to room temperature. Aqueous HCl (6N, 25 mL) was added slowly via an addition funnel and the mixture was heated at reflux for 30 minutes. The reaction was cooled to 0° C. and NaOH (7.0 g) was added portionwise. The aqueous solution was extracted with EtOAc (3×) and the organic solution was dried (MgSO4), filtered, and concentrated. The product (4.01 g) was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.34 (m, 2H), 7.24 (m, 2H), 4.04 (s, 2H), 2.62 (t, 2H), 1.58 (m, 2H), 1.34 (m, 2H), 0.92 (t, 3H).

reactant | 4-butylbenzonitrile | 22.8 mmol, 3.63 g | C(CCC)C1=CC=C(C#N)C=C1 | C11H13N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Butylbenzylamine | C(CCC)C1=CC=C(CN)C=C1 | C11H17N
